US07468371B2
4-[4-(prop-2-ynyloxy)benzyl]morpholine
To a solution of 4-hydroxybenzaldehyde (500 mg, 4.09 mmol) and morpholine (356 mg, 4.09 mmol) in methanol (10 mL) was added macroporous triethylammonium methylpolystyrene borohydride (2.0 g, 6.0 mmol) and the mixture was stirred at ambient temperature for about 2 days. The mixture was filtered and concentrated under vacuum. The residue was dissolved in tetrahydrofuran (20 mL) and to this solution was added propargyl alcohol (229 mg, 4.09 mmol), diphenylphosphino-polystyrene (5.1 g, 8.18 mmol) and diethyl azodicarboxylate (1.06 g, 6.13 mmol). After stirring overnight at room temperature, the mixture was filtered and the filtrate was concentrated under vacuum. The residue was purified by flash chromatography on silica gel using diethyl ether/n-pentane (1:3) as eluent to provide Example 635. MS (DCI-NH3): m/z 232 (M+H)+.

reactant | 4-hydroxybenzaldehyde | 4.09 mmol, 500 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | morpholine | 4.09 mmol, 356 mg | N1CCOCC1 | C4H9NO
reactant | triethylammonium | 6.0 mmol, 2.0 g | C(C)[NH+](CC)CC
reactant | propargyl alcohol | 4.09 mmol, 229 mg | C(C#C)O | C3H4O
reactant | diphenylphosphino-polystyrene | 8.18 mmol, 5.1 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 6.13 mmol, 1.06 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | NH3 | N | H3N
solvent | methanol | 10 mL | CO | CH4O
product | 4-[4-(prop-2-ynyloxy)benzyl]morpholine | C(C#C)OC1=CC=C(CN2CCOCC2)C=C1 | C14H17NO2
